US04514416
Synthesis of 4-amidino-2-methoxyphenyl cinnamate
To a solution of 6.2 g of 4-amidino-2-methoxyphenol methanesulfonate in 30 ml of dried pyridine, while being cooled in ice and stirred, was added 3.9 g of cinnamoyl chloride. Immediately after the addition a colorless solid substance precipitated from the reaction mixture. After 3 hours of stirring at room temperature, ethyl ether was added to the mixture and the precipitate was collected by filtration. The precipitate was dissolved in methanol and mixed with a saturated aqueous sodium bicarbonate solution to precipitate a white gelatinous substance. The gelatinous substance was collected by filtration, washed with water, then with acetone and dried to obtain 6.3 g of the carbonate of the captioned compound. Upon addition of 2.3 g of methanesulfonic acid to the carbonate suspended in 60 ml of methanol, a change in crystal form of the carbonate took place accompanied by effervescence. The suspension was heated to dissolve the crystals and then cooled to obtain 6.3 g of colorless needle crystals of 4-amidino-2-methoxyphenyl cinnamate methanesulfonate.

reactant | methanesulfonic acid | 2.3 g | CS(=O)(=O)O | CH4O3S
reactant | carbonate | C([O-])([O-])=O
reactant | 4-amidino-2-methoxyphenyl cinnamate methanesulfonate | CS(=O)(=O)O.C(C=CC1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C(N)=N)OC
solvent | methanol | 60 ml | CO | CH4O
product | 4-amidino-2-methoxyphenyl cinnamate | 6.3 g | C(C=CC1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C(N)=N)OC | C17H16N2O3
